US04721791
A solution of 5-chloro-m-xylene (59.3 g) and dibenzoyl peroxide (5.0 g) in 1.13 L of benzene was heated at reflux. N-Bromosuccinimide (82.2 g) was added in portions over 15 minutes. Heating was continued for an additional 20 minutes until a negative potassium iodide reaction was observed. The reaction mixture was cooled, evaporated and then titurated with hexane (500 ml). The precipitated succinimide was removed by filtration and washed with additional hexane. Concentration afforded 101 g of crude 3-chloro-5-methylbenzyl bromide.

reactant | 5-chloro-m-xylene | 59.3 g | ClC=1C=C(C=C(C1)C)C | C8H9Cl
reactant | N-Bromosuccinimide | 82.2 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | potassium iodide | [I-].[K+]
solvent | benzene | 1.13 L | C1=CC=CC=C1 | C6H6
catalyst | dibenzoyl peroxide | 5.0 g | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
product | 3-chloro-5-methylbenzyl bromide | 101 g | ClC=1C=C(CBr)C=C(C1)C | C8H8BrCl
